US06593355B2
c. 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-tert.butyloxycarbonylamino-1-pyrrolidino-propan-1-one
Prepared analogously to Example 1c from 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-amino-1-pyrrolidino-propan-1-one and di-tert.butyldicarbonate/N-ethyl-diisopropylamine in dioxane.

reactant | 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-amino-1-pyrrolidino-propan-1-one | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1)C(C(=O)N1CCCC1)(CN)C)[N+](=O)[O-])C | C22H28N4O3
reactant | di-tert.butyldicarbonate N-ethyl-diisopropylamine | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C.C(C)N(C(C)C)C(C)C
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-tert.butyloxycarbonylamino-1-pyrrolidino-propan-1-one | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1)C(C(=O)N1CCCC1)(CNC(=O)OC(C)(C)C)C)[N+](=O)[O-])C | C27H36N4O5
